US07414060B2
3-(2,5-Dimethyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide
The title compound, was prepared from 3-Bromo-6-methyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide in accordance with the general method of Example 78, step 3 using 5-Amino-1,3-dimethylpyrazole instead of 3-Amino-1-methyl-pyrazole to yield the final compound as a yellow solid, MS (ISP): m/e=326.3 (M+H+).

reactant | 3-Bromo-6-methyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | CN1N=C(C=C1)NC(=O)C1=NC(=CC=C1Br)C | C11H11BrN4O
reactant | 5-Amino-1,3-dimethylpyrazole | NC1=CC(=NN1C)C | C5H9N3
product | 3-(2,5-Dimethyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | CN1N=C(C=C1)NC(=O)C1=NC(=CC=C1NC=1N(N=C(C1)C)C)C | C16H19N7O
